US06297267B1
To a solution of (1S,2R,3S)-2-(4,5-diphenyloxazol-2-yl)-2,3-dihydroxy-1-[3-(tertbutyldiphenylsiloxy)benzyl] cyclohexane (8.7 g) in CH2Cl2 (100 ml) were added orthoacetic acid trimethyl ester (2.8 ml) and p-toluenesulfonic acid (150 mg) at room temperature under N2 gas. After being stirred for 30 minutes, the mixture was evaporated in vacuo. The residue was diluted with CH2Cl2 (100 ml), followed by addition of acetylbromide (3.0 ml) at 0° C. under N2 gas. After being stirred for 2 hours at room temperature, the mixture was evaporated in vacuo. The residue was diluted with MeOH (100 ml) and added with K2CO3 (5 g) at room temperature. The mixture was stirred for 2 hours at the same temperature and then partitioned between EtOAc and water. The organic layer was washed with 1N-HCl solution, water, sat. NaHCO3 solution and brine. The organic solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give an oily compound. The oily compound was dissolved in THF (50 ml), followed by addition of tetrabutylammonium fluoride (15 ml, 1M solution in THF) at room temperature. After being stirred for 4 hours, the mixture was diluted with EtOAc. The mixture was washed with 1N-HCl solution and brine and evaporated. The residue was dissolved in DMF (50 ml), followed by addition of K2CO3 (5 g) and ethyl bromoacetate (2.0 ml) at room temperature. The mixture was stirred for 2 hours at the same temperature and partitioned between EtOAc and water. The organic layer was washed with water and brine and evaporated in vacuo. The residue was purified by chromatography on silica gel to give ethyl {3-{[(1S,2R,3S)-2-(4,5-diphenyloxazol-2-yl)-2,3-epoxy-1-cyclohexyl]methyl}phenoxy}acetate (4.3 g).

reactant | (1S,2R,3S)-2-(4,5-diphenyloxazol-2-yl)-2,3-dihydroxy-1-[3-(tertbutyldiphenylsiloxy)benzyl] cyclohexane | 8.7 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@]1([C@@H](CCC[C@@H]1O)CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C44H45NO4Si
reactant | orthoacetic acid trimethyl ester | 2.8 ml | COC(C)(OC)OC | C5H12O3
reactant | p-toluenesulfonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tetrabutylammonium fluoride | 1M, 15 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl {3-{[(1S,2R,3S)-2-(4,5-diphenyloxazol-2-yl)-2,3-epoxy-1-cyclohexyl]methyl}phenoxy}acetate | 4.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@]12[C@@H](CCC[C@@H]1O2)CC=2C=C(OCC(=O)OCC)C=CC2 | C32H31NO5
